US06683211B1
Sodium hydroxide (72 g, 1.8 mol) is dissolved in 650 ml of water. The solution is heated to +60° C. and 1-(4-bromo-phenyl)-2,2-dichloro-ethanone (130 g, 0.48 mol) is added dropwise in order to control the reaction temperature not to exceed +65° C. After the addition is complete, stirring is continued for 1 hour at +60° C. The reaction mixture is then cooled to +15° C. and 95 ml of 10 N hydrochloric acid are added. Subsequently diethyl ether is added and the mixture is stirred vigorously for 30 minutes. The organic phase is separated and the aqueous layer is extracted twice with diethyl ether. The combined organic phases are washed with brine, dried over sodium sulfate and evaporated to yield (4-bromo-phenyl)-hydroxy-acetic acid. 1H-NMR (300 MHz, CDCl3): 4.95 (s, 1H, CHOH), 7.30 (d, 2H, CH arom.), 7.48 (d, 2H, CH arom.).

reactant | Sodium hydroxide | 1.8 mol, 72 g | [OH-].[Na+]
reactant | 1-(4-bromo-phenyl)-2,2-dichloro-ethanone | 0.48 mol, 130 g | BrC1=CC=C(C=C1)C(C(Cl)Cl)=O | C8H5BrCl2O
reactant | hydrochloric acid | 10 N, 95 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 650 ml | O | H2O
product | (4-bromo-phenyl)-hydroxy-acetic acid | BrC1=CC=C(C=C1)C(C(=O)O)O | C8H7BrO3
